US06100397
Method B N-[(1-Butyl-4-piperidinyl)methyl]-3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxamide (SB-207266) (100 g, 0.27 mol) was dissolved in ethanol (870 ml) and the resulting solution filtered to remove particulates. Anhydrous HCl in ethanol (83 ml, 3.6M, 0.30 mol) was added causing the product to precipitate out of solution. The slurry was heated to redissolve the solid and hexane (550 ml) was added. After cooling to room temperature, the mixture was cooled to 0-5° C. and stirred at that temperature for about two hours. The solid was isolated by filtration and dried in vacuo at about 40° C. to give the product, N-[(1-butyl-4-piperidinyl)methyl]-3,4-dihydro-2H-[1,3]-oxazino [3,2-a]indole-10-carboxamide hydrochloride, (102.8 g) in 94% yield.

reactant | N-[(1-Butyl-4-piperidinyl)methyl]-3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxamide | 0.27 mol, 100 g | C(CCC)N1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C22H31N3O2
reactant | HCl | Cl | ClH
solvent | ethanol | 870 ml | C(C)O | C2H6O
solvent | ethanol | 0.30 mol, 3.6M, 83 ml | C(C)O | C2H6O
product | N-[(1-butyl-4-piperidinyl)methyl]-3,4-dihydro-2H-[1,3]-oxazino [3,2-a]indole-10-carboxamide hydrochloride | 102.8 g, 94% yield | Cl.C(CCC)N1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | InChI=1S/C22H31N3O2.ClH/c1-2-3-11-24-13-9-17(10-14-24)16-23-21(26)20-18-7-4-5-8-19(18)25-12-6-15-27-22(20)25;/h4-5,7-8,17H,2-3,6,9-16H2,1H3,(H,23,26);1H
